US07700634B2
To a solution of 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbothioic acid amide (604 mg, 2.00 mmol) in EtOH (5.0 ml) was added ethyl 2-chloro-3-oxobutanoate (0.332 ml, 2.40 mmol). The mixture was refluxed for 1 h. After cooling to 0° C., the precipitate was collected by filtration to afford 1-cyclohexylmethyl-3-(5-ethoxycarbonyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (505 mg, 1.22 mmol).

reactant | 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbothioic acid amide | 2.00 mmol, 604 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(N)=S | C17H22N2OS
reactant | ethyl 2-chloro-3-oxobutanoate | 2.40 mmol, 0.332 ml | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 1-cyclohexylmethyl-3-(5-ethoxycarbonyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole | 1.22 mmol, 505 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1SC(=C(N1)C)C(=O)OCC | C23H28N2O3S
